US09334366B2
A 25% NH3 solution diluted in 780 mL of acetone is added dropwise to a solution of 89.3 g (247 mmol) of 6-chlorohexyl(2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}prop-2-enoate in 752 mL of pyridine. The mixture is allowed to stir for 20 hours at room temperature. The reaction mixture is then partitioned between ethylacetate and water. The organic phase is then washed repeatedly with water, dried over sodium sulfate, filtered off and concentrated by rotary evaporation. The solid is dried under vacuum to yield 70 g (100%) of pure 6-chlorohexyl(2E)-3-(4-hydroxyphenyl)prop-2-enoate as a white powder.

reactant | NH3 | N | H3N
reactant | 6-chlorohexyl(2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}prop-2-enoate | 247 mmol, 89.3 g | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)OCCCCCCCl | C18H23ClO5
solvent | acetone | 780 mL | CC(=O)C | C3H6O
solvent | pyridine | 752 mL | N1=CC=CC=C1 | C5H5N
product | 6-chlorohexyl(2E)-3-(4-hydroxyphenyl)prop-2-enoate | 70 g, 100% | OC1=CC=C(C=C1)/C=C/C(=O)OCCCCCCCl | C15H19ClO3
